US06441017B1
Step G: (S)-N-[1-(tert-Butoxycarbonyl)pyrrolidin-3-yl]-N-{2-[1-(4-cyano-3-fluorobenzyl)-1H-imidazol-5-yl]ethyl}carbamic Acid Triisopropylsilyl Ester
To a stirred solution of (S)-N-[1-(tert-butoxycarbonyl)pyrrolidin-3-yl]-N-{2-[1-(triphenylmethyl)-1H-imidazol-4-yl]ethyl}carbamic acid triisopropylsilyl ester, as described above in Step F, (519 mg, 0.715 mmol) and 4-cyano-3-fluoro-benzyl alcohol, as described in Example 31, Step H, (108 mg, 0.715 mmol) in CH2Cl2 (7 mL) was added N,N-diisopropylethylamine (0.311 mL, 1.78 mmol), followed by dropwise addition of trifluoromethanesulfonic anhydride (0.120 mL, 0.715 mmol). The reaction mixture was allowed to warm slowly to ambient temperature and was stirred for 18 hours, then concentrated in vacuo. The residue was dissolved in MeOH (10 mL) and the resulting solution was heated to 40° C. for 2 hours. The solvent was removed in vacuo and the residue was chromatographed on silica gel, eluting with a gradient of CH2Cl2—1% to 4% MeOH—0.1% to 0.4% NH4OH, to yield the above-titled compound.

reactant | (S)-N-[1-(tert-butoxycarbonyl)pyrrolidin-3-yl]-N-{2-[1-(triphenylmethyl)-1H-imidazol-4-yl]ethyl}carbamic acid triisopropylsilyl ester | C(C)(C)[Si](C(C)C)(C(C)C)OC(N(CCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C@@H]1CN(CC1)C(=O)OC(C)(C)C)=O | C43H58N4O4Si
reactant | 4-cyano-3-fluoro-benzyl alcohol | C(#N)C1=C(C=C(CO)C=C1)F | C8H6FNO
reactant | N,N-diisopropylethylamine | 1.78 mmol, 0.311 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trifluoromethanesulfonic anhydride | 0.715 mmol, 0.120 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | (S)-N-[1-(tert-Butoxycarbonyl)pyrrolidin-3-yl]-N-{2-[1-(4-cyano-3-fluorobenzyl)-1H-imidazol-5-yl]ethyl}carbamic Acid Triisopropylsilyl Ester | C(C)(C)[Si](C(C)C)(C(C)C)OC(N(CCC1=CN=CN1CC1=CC(=C(C=C1)C#N)F)[C@@H]1CN(CC1)C(=O)OC(C)(C)C)=O | C32H48FN5O4Si
